US04914093
Ethyl 2-chlorophenoxyacetate
A mixture of 51.4 g of o-chlorophenol, 58.8 g of ethyl chloroacetate, 55.3 g of potassium carbonate and 250 ml of acetone was heated under reflux for 7 hours. The mixture was then cooled to room temperature and an insoluble material was filtered off. The filtrate was concentrated in vacuo and the resulting residue was purified by silica gel column chromatography to give 69.0 g of the title compound as an oil, boiling at 134°-137° C./2 mm Hg (267 Pa).

reactant | o-chlorophenol | 51.4 g | ClC1=C(C=CC=C1)O | C6H5ClO
reactant | ethyl chloroacetate | 58.8 g | ClCC(=O)OCC | C4H7ClO2
reactant | potassium carbonate | 55.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 250 ml | CC(=O)C | C3H6O
product | Ethyl 2-chlorophenoxyacetate | 69.0 g | ClC1=C(OCC(=O)OCC)C=CC=C1 | C10H11ClO3
